US08530489B2
Step 1: 1H-pyrrolo[2,3-b]pyridin-5-amine
5-bromo-1H-pyrrolo[2,3-b]pyridine (6.0 g, 30.45 mmol) in ammonium hydroxide (120 mL) was treated with copper sulphate pentahydrate (1.50 g, 6.09 mmol, 0.2 eq) and heated in a sealed tube overnight. The reaction was diluted with EtOAc and the insoluble black solid was filtered off. The filtrate was extracted (EtOAc/Water) and the organic layer washed with saturated aqueous ammonium chloride, followed by water and brine. The organics were dried over magnesium sulphate, filtered and evaporated to dryness to give the product as a pale brown solid (2.57 g, 63%)

reactant | 5-bromo-1H-pyrrolo[2,3-b]pyridine | 30.45 mmol, 6.0 g | BrC=1C=C2C(=NC1)NC=C2 | C7H5BrN2
reactant | ammonium hydroxide | 120 mL | [OH-].[NH4+]
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | copper sulphate pentahydrate | 6.09 mmol, 1.50 g, 0.2 eq | O.O.O.O.O.S(=O)(=O)([O-])[O-].[Cu+2]
product | 1H-pyrrolo[2,3-b]pyridin-5-amine | 2.57 g, 63% | N1C=CC=2C1=NC=C(C2)N | C7H7N3
